US06103910
a) (R)-1-[3-[Benzyl-[3-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-amino]-propionyl]-pyrrolidine-2-carboxylic acid tert-butyl ester
A solution of 1.0 g (4.44 mmol) (R)-1-acryloyl-pyrrolidine-2-carboxylic acid tert-butyl ester and 0.24 ml (2.22 mmol) benzylamine in 25 ml acetonitrile was stirred for 16 h at 80° C. Concentration in vacuo and flash chromatography (gradient: 0-10% MeOH in EtOAc) afforded 470 mg (34%) of the title compound as a yellow oil.

reactant | (R)-1-acryloyl-pyrrolidine-2-carboxylic acid tert-butyl ester | 4.44 mmol, 1.0 g | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(C=C)=O | C12H19NO3
reactant | benzylamine | 2.22 mmol, 0.24 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | (R)-1-[3-[Benzyl-[3-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-amino]-propionyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 470 mg, 34% | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(CCN(CCC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C31H47N3O6
